data/mechanisms/records/IMS8-EQ8.95.json
{"mechanism_id": "IMS8-EQ8.95", "species": [{"species_id": "ee_oxocarbenium_precursor", "mapped_smiles": "[CH3:6][CH2:5][CH2:4][CH2:3][CH:1]=[O+:2][CH2:7][CH2:8][CH2:9][CH3:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methylene_oxocarbenium_ion", "mapped_smiles": "[CH2:1]=[O+:2][CH2:7][CH2:8][CH2:9][CH3:10]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "butene_neutral", "mapped_smiles": "[CH2:3]=[CH:4][CH2:5][CH3:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ee_oxocarbenium_precursor"]}, {"state_id": "state_products", "species_ids": ["methylene_oxocarbenium_ion", "butene_neutral"]}], "steps": [{"step_id": "step_rH_alkene_loss_to_carbon", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_95", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_alkene_loss_to_carbon", "support_type": "textbook_proposed", "locator": {"page": 205, "equation": "8.95", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements (EE+ ion rearrangements)"}, "confidence": 0.8, "curator_note": "Equation 8.95, the single horizontal reaction arrow labelled 'r H'. SHARED SUBSTRATE: Equations 8.92-8.95 are four competing decompositions of ONE AND THE SAME even-electron (EE+) ion. The figure block draws that ion's parent at its left edge -- the OE+. molecular ion R'(CH2)3CH(R)-Y(+.)-(CH2)3R\" with '+.' printed on Y -- and four reaction arrows labelled 'alpha' fanning out from it, one into each numbered equation. The parent carries 2 drawn fishhooks (one leaving the C-R sigma bond, one leaving the '+.' odd electron on Y, both converging on the forming C=Y(+) pi bond); the third, homolysis hook that releases R. is NOT drawn, R. is simply implied by the 'alpha' label. That alpha-cleavage is an unnumbered preamble shared by all four equations and is NOT encoded in this record, which covers only the numbered 'r H' arrow. INSTANTIATION (convention F): the scheme is generic in Y, R, R' and R\"; this record uses Y = O, R' = CH3, R\" = CH3 (and R = CH3 for the un-encoded parent), so the EE+ ion is the oxocarbenium CH3(CH2)3CH=O(+)-(CH2)3CH3 (C9H19O+, curator-computed monoisotopic m/z 143.1430; it would arise by loss of CH3. from butyl hexan-2-yl ether, M+. m/z 158.1665). Y = O is the assignment the drawing forces: Y carries exactly three bonds both before (=CH plus one alkyl) and after the reaction, with no fourth substituent drawn; the nitrogen case quoted in the running text (CH2=N(+)RCH2CH2CD2CH3, Equation 8.93) would require that extra substituent. NO m/z and NO intensity is printed anywhere on page 205, so every mass in this record is curator-computed, every species is detected=false and the peak status is 'inferred' (convention F). REACTION AS DRAWN: the mirror image of 8.94. The H-receptor site is now the sp2 CARBON (drawn 'CH=Y(+)(CH2)3R\"') and the ring bond running into it is the C-C SINGLE bond to the abbreviated donor chain 'R'-(C3H5)', so that C-C bond is the one that must be cleaved (p. 205: 'With only a single bond at this site (8.94 and 8.95), cleavage of this bond is required'). As in 8.94 the donor chain is drawn as a box with one H written out and no definite ring size; the text's ~30% alpha / ~20% beta / ~50% gamma H-site distribution applies. CURATOR CHOICE: the beta-H route is instantiated for the same reason as in 8.94 (the four drawn arcs form two new bonds, and the new pi bond can only join adjacent carbons), giving the four-membered transition state C1...C3-C4...H. Products: R'-C3H5 (here 1-butene, C4H8, 56.0626) and CH2=Y(+)-(CH2)3R\" (here CH2=O(+)-(CH2)3CH3, C5H11O+, 87.0804); the sp2 carbon C1 picks up the hydrogen and becomes the methylene of the product oxocarbenium. ARC COUNT: the book draws 4 arc(s), all single-barb fishhooks, in the same two-converging-pairs layout as 8.94: the upper pair (one hook off the C4-H bond, one hook off the C1-C3 bond) converges on the H...C1 gap = the forming H-C1 bond; the lower pair (one hook off each of the same two bonds) converges inside the (C3H5) box = the forming C3=C4 pi bond. ENCODING LIMITATION: RDKit folds an atom-mapped explicit hydrogen back into its heavy atom's implicit-H count, so the migrating H cannot carry an atom map and every drawn hook that touches it is untranscribable as an ElectronMove. The moves below therefore re-express the drawn hooks at heavy-atom level; the H transfer itself is folded into the implicit-H counts of the two mapped atoms it moves between. Only one of the four hooks avoids the H: move <1> = C1-C3 -> C3-C4, transcribed verbatim. Move <2> repeats those endpoints and is NOT a fifth arc: it is the re-decomposition standing in for the three untranscribable hooks (C4-H -> H-C1, C4-H -> C3=C4, C1-C3 -> H-C1). Heavy-atom bookkeeping is identical to the drawing (C1-C3 -2e, C3-C4 +2e); the H transfer is folded into the implicit-H counts (C4: CH2 -> =CH, C1: CH -> CH2)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 143.143, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_87", "species_id": "methylene_oxocarbenium_ion", "step_id": "step_rH_alkene_loss_to_carbon", "observed_mz": 87.0804, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
